US07279486B2
Step 1. 1-(2-Bromophenyl)ethane-1,2-diol
To a stirred solution of 1-bromo-2-vinylbenzene (4.14 g, 22.6 mmol) and 4-methylmorpholine N-oxide in acetonitrile (20 mL) and water (10 mL) was added a 2.5% solution of osmium tetroxide in 2-methyl-2-propanol (2 mL) at room temperature and the mixture was stirred for 24 h at the same temperature. The reaction mixture was quenched by the addition of sodium hydrosulfate, and diluted with water, then extracted with ethyl acetate. The organic layer was washed with diluted hydrochloric acid aqueous solution and brine, dried over sodium sulfate, and evaporated to afford 5.01 g (quant.) of the title compound as a brown solid:

reactant | 1-bromo-2-vinylbenzene | 22.6 mmol, 4.14 g | BrC1=C(C=CC=C1)C=C | C8H7Br
reactant | 4-methylmorpholine N-oxide | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | water | 10 mL | O | H2O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | 2-methyl-2-propanol | 2 mL | CC(C)(C)O | C4H10O
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | 1-(2-Bromophenyl)ethane-1,2-diol | BrC1=C(C=CC=C1)C(CO)O | C8H9BrO2
